US04665065
7β-[2-(2-Chloroacetamidothiazol-4-yl)-2(Z)-methoxyiminoacetamido]-3-(3-oxobutyryloxymethyl)-3-cephem-4-carboxylic acid
In a mixture of 500 ml of tetrahydrofuran and 500 ml of water is suspended 157 g of 7β-amino-3-(3-oxobutyryloxymethyl)-3-cephem-4-carboxylic acid. To the suspension is added little by little 141 g of sodium hydrogen carbonate with stirring. To the mixture is added 150 g of 2-(2-chloroacetamidothiazol-4-yl)-2(Z)-methoxyiminoacetyl chloride hydrochloride at 5° C., during 20 minutes with stirring, and the mixture was stirred for further one hour. After completion of the reaction, the reaction mixture is adjusted to pH 3.0 with 10% hydrochloric acid, and extracted twice with 1 l portions of a mixture is ethyl acetate-tetrahydrofuran (1:1). The extract is dried over anhydrous magnesium sulfate, and then the solvent is evaporated off under reduced pressure to leave colorless powder, which is triturated with 200 ml of ethyl acetate and collected by filtration to afford 253 g of the above-identified compound.

reactant | 7β-amino-3-(3-oxobutyryloxymethyl)-3-cephem-4-carboxylic acid | 157 g | N[C@H]1[C@@H]2N(C(=C(CS2)COC(CC(C)=O)=O)C(=O)O)C1=O | C12H14N2O6S
reactant | sodium hydrogen carbonate | 141 g | C(O)([O-])=O.[Na+]
reactant | 2-(2-chloroacetamidothiazol-4-yl)-2(Z)-methoxyiminoacetyl chloride hydrochloride | 150 g | Cl.ClCC(=O)NC=1SC=C(N1)/C(/C(=O)Cl)=N/OC
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 500 ml | O1CCCC1 | C4H8O
solvent | water | 500 ml | O | H2O
product | 7β-[2-(2-Chloroacetamidothiazol-4-yl)-2(Z)-methoxyiminoacetamido]-3-(3-oxobutyryloxymethyl)-3-cephem-4-carboxylic acid | 253 g | ClCC(=O)NC=1SC=C(N1)/C(/C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)COC(CC(C)=O)=O)C(=O)O)C1=O)=N/OC | C20H20ClN5O9S2
